US07425631B2
Step B. Preparation of 3-(tert-Butyl-diphenyl-silanyloxy)-propionamidine.
To a suspension of NH4Cl (5.35 g, 0.1 mmol) in 60 mL of dry benzend at 0 C was slowly added 50 mL of 2 M solution of trimethylaluminum in toluene. After the addition was complete, the reaction was warmed to RT and was stirred for 2 h until gas evolution had ceased. A solution of 3-(tert-butyl-diphenyl-silanyloxy)-propionitrile (9.27 g, 0.03 mol) in 20 mL of dry benzene was added to the aluminum amide reagent and the resulting was heated up to 80° C. for 20 h. The reaction was slowly cooled to RT and then carefully poured into a slurry of 300 mL of Ch2Cl2 and 200 g of silica gel. It was then filtered and washed thoroughly with MeOH/CH2Cl2 (1:2). After concentration, flash chromatography (SiO2, EtOAc to EtOAc/MeOH=100:20 to 100:30 to EtOAc/2 M NH3 in MeOH=100:30) gave the desired compound as a white solid.

reactant | NH4Cl | 0.1 mmol, 5.35 g | [NH4+].[Cl-]
reactant | trimethylaluminum | C[Al](C)C
reactant | 3-(tert-butyl-diphenyl-silanyloxy)-propionitrile | 0.03 mol, 9.27 g | C(C)(C)(C)[Si](OCCC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23NOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 3-(tert-Butyl-diphenyl-silanyloxy)-propionamidine | C(C)(C)(C)[Si](OCCC(=N)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H26N2OSi
